US07696200B2
A solution of 3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carboxylic acid (1.00 g, 2.70 mmol), ethyl 4-amino-2-chlorobenzoate (1.08 g, 5.41 mmol), 4-methylmorpholine (1.37 g, 13.5 mmol), and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl-uronium hexafluoro-phosphate (1.54 g, 4.06 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 min, then 4-(dimethylamino)pyridine (337 mg, 2.70 mmol) were added, and the solution was stirred at 60° C. for 18 h. After cooling, the reaction mixture was partitioned between water, heptane, and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) produced 2-chloro-4-{[3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester (849 mg, 57%). Off-white solid, MS (ISP)=551.2 (M+H)+.

reactant | 3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carboxylic acid | 2.70 mmol, 1.00 g | ClC=1C=CC(=C(C1)S(=O)(=O)N1COC2=C1C=C(C=C2)C(=O)O)OC | C15H12ClNO6S
reactant | ethyl 4-amino-2-chlorobenzoate | 5.41 mmol, 1.08 g | NC1=CC(=C(C(=O)OCC)C=C1)Cl | C9H10ClNO2
reactant | 4-methylmorpholine | 13.5 mmol, 1.37 g | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl-uronium hexafluoro-phosphate | 4.06 mmol, 1.54 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 2.70 mmol, 337 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-chloro-4-{[3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester | 849 mg, 57% | C(C)OC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)Cl)=O | C24H20Cl2N2O7S
